US08912188B2
To a solution of (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (150 mg, 0.36 mmol) in dioxane (5 mL) was added 2,4-difluorophenylboronic acid (113 mg, 0.72 mmol), K3PO4 (152 mg, 0.72 mmol), Pd(PPh3)4 (20 mg, 0.02 mmol) and water (3 drops). The resulting solution was stirred for 1 hour at 90° C. and then concentrated in vacuo to give a residue, which was purified by silica gel column chromatography (5% ethyl acetate in petroleum ether) to afford (S)-methyl 2-(2,4-difluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate as a yellow solid (115 mg, 84%).

reactant | (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 0.36 mmol, 150 mg | C[C@@H]1N(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C16H16F3N3O5S
reactant | 2,4-difluorophenylboronic acid | 0.72 mmol, 113 mg | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | K3PO4 | 0.72 mmol, 152 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-methyl 2-(2,4-difluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 115 mg, 84% | FC1=C(C=CC(=C1)F)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC | C21H19F2N3O2
